US06294532B1
5-Methoxy-2-nitro-4-(2-(4-pyridyloxy)ethoxy)benzamide (2.15 g, 6.4 mmol) and 10% palladium-on-charcoal catalyst (100 mg) were suspended in methanol (400 ml) and placed under hydrogen at atmospheric pressure. The reaction mixture was heated at 40° C. for 1 hour, cooled to ambient temperature, filtered through diatomaceous earth and the solvent was removed by evaporation. The precipitate was slurried with ether and collected by filtration to give 2-amino-5-methoxy-4-(2-(4-pyridyloxy)ethoxy)benzamide as a cream solid (1.95 g, 99%). 2-Amino-5-methoxy-4-(2-(4-pyridyloxy)ethoxy)benzamide (1.95 g, 6.4 mmol) and formamide (10 ml) were heated at 190-200° C. for 1 hour. The reaction mixture was allowed to cool to 50° C. as the product precipitated out. Water (50 ml) was added and the solid was collected by filtration, washed with more water and ether and dried under vacuum to give 6-methoxy-7-(2-(4-pyridyloxy)ethoxy)-3,4-dihydroquinazolin-4-one (0.99 g, 49%) as a cream solid. The 6-methoxy-7-(2-(4-pyridyioxy)ethoxy)-3,4-dihydroquinazolin-4-one (312 mg, 1 mmol) was heated at reflux in thionyl chloride (10 ml) and DMF (5 drops) for 1 hour, then evaporated to dryness and partitioned between a saturated solution of sodium hydrogen carbonate and methylene chloride. The methylene chloride phase was dried by filtration through a phase separator paper and the solvent was removed by evaporation to give crude 4-chloro-6-methoxy-7-(2-(4-pyridyloxy)ethoxy)quinazoline which was used without further purification.

reactant | 2-Amino-5-methoxy-4-(2-(4-pyridyloxy)ethoxy)benzamide | 6.4 mmol, 1.95 g | NC1=C(C(=O)N)C=C(C(=C1)OCCOC1=CC=NC=C1)OC | C15H17N3O4
reactant | formamide | 10 ml | C(=O)N | CH3NO
product | 6-methoxy-7-(2-(4-pyridyloxy)ethoxy)-3,4-dihydroquinazolin-4-one | 0.99 g, 49% | COC=1C=C2C(NC=NC2=CC1OCCOC1=CC=NC=C1)=O | C16H15N3O4
